US08937071B2
To a solution of 4-bromo-2,6-difluorobenzoic acid (5 g, 21.10 mmol) in THF (100 mL) was added BH3. DMS (20.03 mL, 211 mmol) dropwise at rt. The resulting mixture was stirred at 60° C. for 16 h. After LCMS analysis showed the starting material had disappeared, the mixture was quenched by MeOH. The solvent was removed in vacuo to yield a white solid of (4-bromo-2,6-difluorophenyl)methanol (4.5 g, 20.02 mmol, 95.2% yield), which was used in the next step without further purification: ES-LCMS m/z 222.1 (M+1).

reactant | 4-bromo-2,6-difluorobenzoic acid | 21.10 mmol, 5 g | BrC1=CC(=C(C(=O)O)C(=C1)F)F | C7H3BrF2O2
reactant | DMS | 211 mmol, 20.03 mL | CSC | C2H6S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-bromo-2,6-difluorophenyl)methanol | 20.02 mmol, 4.5 g, 95.2% yield | BrC1=CC(=C(C(=C1)F)CO)F | C7H5BrF2O
